data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2068,2295,[CH3:17][CH-:18][NH+:19]=[C:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[CH3:1][C:2]([CH3:3])=[C:4]([c:5]1[cH:6][cH:7][cH:8][cH:9][cH:10]1)[c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1>>[CH3:1][C:2]1([CH3:3])[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)[CH:18]([CH3:17])[NH:19][C:20]1([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1,water,298.15,29.85224068198001,-3.766900743258484
3336,3784,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[CH-:15][N+:16]#[N:17]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[N:17]=[N:16][CH:15]2[C:13]([NH:12][CH3:11])=[O:14],water,298.15,32.931118513197816,2.9351787589183167
1795,1986,[CH3:16][NH:17][C:18](=[O:19])[c-:20]1[c:21](=[O:22])[o:23][c:24]([C:25]([CH3:26])=[O:27])[n+:28]1[CH3:29].[CH3:1][O:2][C:3]1=[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[CH3:1][O:2][C:3]12[C:4]([c:5]3[cH:6][cH:7][cH:8][cH:9][cH:10]3)([CH:11]3[CH:12]=[CH:13][CH:14]1[O:15]3)[C:24]1([C:25]([CH3:26])=[O:27])[O:23][C:21](=[O:22])[C:20]2([C:18]([NH:17][CH3:16])=[O:19])[N:28]1[CH3:29],water,298.15,22.76452853367048,1.4225707173393811
4654,5307,[CH3:9][NH:10][C:11](=[O:12])[C:13](=[O+:14][CH-:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[C:22](=[O:23])[O:24][CH3:25].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[CH:15]([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[O:14][C:13]1([C:11]([NH:10][CH3:9])=[O:12])[C:22](=[O:23])[O:24][CH3:25],water,298.15,12.4016572611017,-37.76406776573056
2282,2529,[CH3:13][NH:14][C:15](=[O:16])[c:17]1[o:18][c:19](=[O:20])[c-:21](-[c:22]2[cH:23][cH:24][cH:25][cH:26][cH:27]2)[n+:28]1[CH3:29].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([Br:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:17]1([C:15]([NH:14][CH3:13])=[O:16])[O:18][C:19](=[O:20])[C:21]2([c:22]2[cH:23][cH:24][cH:25][cH:26][cH:27]2)[N:28]1[CH3:29],water,298.15,32.9335780010828,7.434147096801532
2425,2693,[CH3:25][NH:26][C:27](=[O:28])[N-:29][NH+:30]=[C:31]([CH3:32])[C:33]([CH3:34])=[O:35].[N:1]#[C:2][C:3]1([C:4]#[N:5])[C:6]#[C:7][C:8]([c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[CH2:21][CH2:22][CH2:23][CH2:24]1>>[N:1]#[C:2][C:3]1([C:4]#[N:5])[C:6]2=[C:7]([C:8]([c:9]3[cH:10][cH:11][cH:12][cH:13][cH:14]3)([c:15]3[cH:16][cH:17][cH:18][cH:19][cH:20]3)[CH2:21][CH2:22][CH2:23][CH2:24]1)[C:31]([CH3:32])([C:33]([CH3:34])=[O:35])[NH:30][N:29]2[C:27]([NH:26][CH3:25])=[O:28],water,298.15,21.856883763991227,-36.66540493820822
4408,5040,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][N+:12](=[CH:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[C-:20]([C:21]#[N:22])[C:23]#[N:24]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:20]([C:21]#[N:22])([C:23]#[N:24])[N:12]([CH3:11])[CH:13]2[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1,water,298.15,22.097287390382007,-10.992182373610447
243,266,[CH3:7][NH:8][C:9](=[O:10])[c:11]1[o:12][c:13](=[O:14])[c-:15]([C:16]#[N:17])[n+:18]1[CH3:19].[CH:1]#[C:2][C:3](=[O:4])[NH:5][CH3:6]>>[CH:1]1=[C:2]([C:3](=[O:4])[NH:5][CH3:6])[C:15]2([C:16]#[N:17])[C:13](=[O:14])[O:12][C:11]1([C:9]([NH:8][CH3:7])=[O:10])[N:18]2[CH3:19],water,298.15,23.43147051890466,-13.943214956843232
4514,5149,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][O:10][C:11](=[O:12])[C-:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[N+:20]([CH3:21])=[C:22]([CH3:23])[CH3:24]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[C:13]([C:11]([O:10][CH3:9])=[O:12])([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[N:20]([CH3:21])[C:22]2([CH3:23])[CH3:24],water,298.15,19.978260314549992,-13.219548820436303
1932,2142,[CH3:13][NH:14][C:15](=[O:16])[C:17](=[NH+:18][C-:19]([CH3:20])[C:21]#[N:22])[C:23](=[O:24])[O:25][CH3:26].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([Br:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:17]([C:15]([NH:14][CH3:13])=[O:16])([C:23](=[O:24])[O:25][CH3:26])[NH:18][C:19]2([CH3:20])[C:21]#[N:22],water,298.15,16.176436589417747,-23.25850557873845
3333,3781,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[CH-:15][N+:16]#[N:17]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[CH:15]([C:13]([NH:12][CH3:11])=[O:14])[N:16]=[N:17]2,water,298.15,35.818412364477545,-1.1694356585474166
